USRE039679E1
1-{5-Bromo-2-[(3-chloropropyl)sulfanyl]phenyl}hydrazine hydrochloride (784 mg, 2.4 mmol) and 4-piperidone monohydrate.HCl (398 mg, 2.6) were dissolved in EtOH (5mL). Conc. Hcl (0.2 mL, 2.4 mmol) were added. The reaction was refluxed for 18 hrs and then cooled to rt. The ppt was collected by filtration and the residue was washed with EtOH (3mL). 9-bromo-6-[(3-chloropropyl)sulfanyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloroide (500.4 mg, 58%) was isolated as a white powder. 1H NMR (CD3OD, 300 Mhz) δ7.18 (d, 1H, 8.0 Hz), 7.12 (d, 1H, 8.0 Hz), 4.73 (s, 2H), 3.64 (t, 2H, 6.6 Hz), 3.58 (t, 2H, 6.3 Hz), 3.16 (t, 2H, 6.3 Hz), 3.02 (t, 2H, 6.6 Hz), 1.87-1.96 (m, 2H) ppm.

reactant | 1-{5-Bromo-2-[(3-chloropropyl)sulfanyl]phenyl}hydrazine hydrochloride | 2.4 mmol, 784 mg | Cl.BrC=1C=CC(=C(C1)NN)SCCCCl
reactant | 4-piperidone monohydrate | O.N1CCC(CC1)=O
reactant | HCl | 398 mg | Cl | ClH
solvent | EtOH | 5mL | CCO | C2H6O
product | 9-bromo-6-[(3-chloropropyl)sulfanyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 500.4 mg, 58% | BrC=1C=2C3=C(NC2C(=CC1)SCCCCl)CCNC3 | C14H16BrClN2S
